US05486466
To 168.2 g of 3,5-dihydroxy-2-methylbenzoic acid in 0.6 l of methanol were added 10 ml of 98% sulfuric acid, and the mixture was heated at reflux for 18 hours. The solution was cooled to room temperature and neutralized by the addition of about 30 ml of 28% sodium hydroxide solution. The solvent was evaporated in vacuo, and the residue was taken up in 0.7 l of ethyl acetate. The solution was washed successively with saturated sodium carbonate solution and brine, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residue was crystallized from ethyl acetate/hexane to yield 162.9 g of methyl 3,5-dihydroxy-2-methylbenzoate, m.p. 136°-138° C.

reactant | 3,5-dihydroxy-2-methylbenzoic acid | 168.2 g | OC=1C(=C(C(=O)O)C=C(C1)O)C | C8H8O4
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | about 30 ml | [OH-].[Na+]
reactant | methanol | 0.6 l | CO | CH4O
product | methyl 3,5-dihydroxy-2-methylbenzoate | 162.9 g | OC=1C(=C(C(=O)OC)C=C(C1)O)C | C9H10O4
